US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 2-(3-aminophenoxy)ethanol were reacted to produce N2,N4-bis[3-(2-hydroxyethoxy)phenyl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.50 (br s, 1H), 9.35 (br s, 1H), 8.13 (d, 1H, J=4.1 Hz), 7.44 (d, 1H, J=7.6 Hz), 7.26–7.19 (m, 4H), 7.10 (t, 1H, J=7.6 Hz), 6.65 (dd, 1H, J=2.3 and 8.2 Hz), 6.50 (dd, 1H, J=2.3 and 8.2 Hz), 5.0 (br s, 2H), 3.91 (t, 2H, J=5.2 Hz), 3.85 (t, 2H, J=5.2 Hz), 3.68 (qt, 2H, J=5.2 Hz), 3.66 (qt, 2H, J=5.2 Hz); LCMS: ret. time: 15.76 min.; purity: 97%; MS (m/e): 401 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-(3-aminophenoxy)ethanol | NC=1C=C(OCCO)C=CC1 | C8H11NO2
product | N2,N4-bis[3-(2-hydroxyethoxy)phenyl]-5-fluoro-2,4-pyrimidinediamine | OCCOC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OCCO)F | C20H21FN4O4
